US06900357B2
Synthesis of (2S, 3S)-3-cyclohexyl-3-hydroxy-2-methylpropanal (Table 1, entry 3):
A solution of freshly distilled propionaldehyde (72 μL, 1.0 mmol) in 500 μL dimethylformamide pre-cooled to 4° C. was added slowly over the course of 20 h to a stirring suspension of cyclohexane carboxaldehyde (242 μL, 2.0 mmol), L-proline (11.5 mg, 0.10 mmol) and 500 μL dimethylformamide at 4° C. After 22 hours, the resulting solution was diluted with diethyl ether and washed successively with water and brine. The combined aqueous layers were back-extracted with 3 portions dichloromethane. The organic layers were combined, dried over anhydrous MgSO4, and concentrated in vacuo. Flash chromatography (20:7 pentane:diethyl ether) afforded the title compound as a clear, colorless oil in 87% yield (148 mg, 0.87 mmol), 99% ee and 93:7 anti:syn. IR (film) 3438, 2928, 2853, 1722, 1450, 1396, 1376, 1314, 1186, 1112, 1063, 975.8, 893.2, 847.5 cm−1; 1H NMR (300 MHz, CDCl3) δ9.75 (d, 1H, J=2.1 Hz, CHO); 3.53 (dd, 1H, J=7.2, 4.8 Hz, CHOH); 2.58 (m, 1H, CHCH3); 1.8-1.0 (br m, 11H, cyclohexyl); 1.10 (d, 3H, J=7.2 Hz, CH3); 3C NMR (75 MHz, CDCl3) δ206.1, 77.1, 49.2, 40.7, 30.3, 26.73, 26.69, 26.68, 26.4, 11.4; HRMS (CI) exact mass calcd for [M+H]+ (C10H19O2) requires m/z 171.1385, found m/z 171.1386. [α]D=−5.1 (c=1.0, CHCl3). The product ratios were determined by GLC analysis of the corresponding 4-cyclohexyl-2,2,5-trimethyl-[1,3]dioxane (obtained by NaBH4 reduction followed by acetonide protection of the 1,3-diol according to the method of Goto, in Kitamura et al. (1984) J. Am. Chem. Soc. 106:3252) using a Bodman Chiraldex β-DM (30 m×0.25 mm) column (110° C. isotherm, 23 psi); (2S, 3S) anti isomer tr=17.8 min, (2R, 3R) anti isomer tr=18.7 min, (2R, 3S) and (2S, 3R) syn isomers tr=21.0, 22.2 min.

reactant | propionaldehyde | 1.0 mmol, 72 μL | C(CC)=O | C3H6O
reactant | cyclohexane carboxaldehyde | 2.0 mmol, 242 μL | C1(CCCCC1)C=O | C7H12O
reactant | L-proline | 0.10 mmol, 11.5 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | dimethylformamide | 500 μL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | dimethylformamide | 500 μL | CN(C=O)C | C3H7NO
product | (2S, 3S)-3-cyclohexyl-3-hydroxy-2-methylpropanal | 87% yield | C1(CCCCC1)[C@@H]([C@@H](C=O)C)O | C10H18O2
